US09085555B2
B. (1-Acetyl-imidazo[1,5-a]pyridin-3-yl)-acetic acid methyl ester
A solution of imidazo[1,5-a]pyridin-3-yl-acetic acid methyl ester (1.38 g, 7.26 mmol) in CH2Cl2 (50 mL) was added to a suspension of AlCl3 (2.9 g, 21.77 mmol) in CH2Cl2 (115 mL) and the mixture was stirred at RT for 30 min under nitrogen atmosphere. Acetyl chloride (1.55 mL, 21.77 mmol) was subsequently added dropwise and the mixture was further stirred overnight. AlCl3 (1.94 g, 14.51 mmol) and 15 min later acetyl chloride (1.04 mL, 14.51 mmol) were added and stirring was continued overnight to complete the reaction. The reaction mixture was cooled with at 0° C. and carefully quenched by cautious addition of MeOH (35 mL). Solvents were evaporated under reduced pressure and the crude residue was purified by flash column chromatography on silica gel (eluent: CH2Cl2 to CH2Cl2/MeOH 94:6). TLC, Rf (CH2Cl2/MeOH 9:1)=0.60; MS (UPLC/MS): 233.1 [M+H]+, 255.1 [M+Na]+, 487.1 [2M+Na]+; tR (HPLC conditions f): 1.27 min.

reactant | imidazo[1,5-a]pyridin-3-yl-acetic acid methyl ester | 7.26 mmol, 1.38 g | COC(CC1=NC=C2N1C=CC=C2)=O | C10H10N2O2
reactant | AlCl3 | 21.77 mmol, 2.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Acetyl chloride | 21.77 mmol, 1.55 mL | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | 14.51 mmol, 1.94 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 14.51 mmol, 1.04 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 115 mL | C(Cl)Cl | CH2Cl2
product | (1-Acetyl-imidazo[1,5-a]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=NC(=C2N1C=CC=C2)C(C)=O)=O | C12H12N2O3
